US09085583B2
To a solution of methyl 3-methyl-1H-pyrazole-4-carboxylate (280 mg, 2 mmol) in N, N-dimethylformamide (30 mL) was added (bromomethyl)benzene (0.34 g, 2 mmol) and potassium carbonate (0.55 g, 4 mmol). The mixture was stirred at 20° C. and stirred for 12 hours. The solvent was evaporated in vacuo and the residue was purified by CXTH (Column: Dsisol, 10 μM, C18, 250 mm*50 mm; Mobile: acetonitrile (0.1% formic acid)-water (0.1% formic acid), acetonitrile from 30% to 70% in 80 minutes; oven: 20° C.; flow rate: 50 mL/minute, wavelength: 214 nm) to give crude methyl 1-benzyl-5-methyl-1H-pyrazole-4-carboxylate (200 mg, 42%). LRMS (M+H+) m/z: calcd. 230.11. found 230.

reactant | methyl 3-methyl-1H-pyrazole-4-carboxylate | 2 mmol, 280 mg | CC1=NNC=C1C(=O)OC | C6H8N2O2
reactant | (bromomethyl)benzene | 2 mmol, 0.34 g | BrCC1=CC=CC=C1 | C7H7Br
reactant | potassium carbonate | 4 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | N, N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 1-benzyl-5-methyl-1H-pyrazole-4-carboxylate | 200 mg, 42% | C(C1=CC=CC=C1)N1N=CC(=C1C)C(=O)OC | C13H14N2O2
